US07491710B2
A suspension of 330 mg of 5-benzyloxy-3-[1-tert-butoxycarbonyl-5-(2-chloro-ethoxy)-1H-indol-2-yl]indazole-1-carboxylic acid tert-butyl ester, 442 mg of potassium carbonate, 133 mg of potassium iodide and 596 mg of N-1-Boc-piperazine in 15 ml of acetonitrile is stirred at 85° C. for 48 hours. After returning to 20° C, the reaction mixture is evaporated under reduced pressure and the residue is then taken up in a mixture of ethyl acetate (15 ml) and of water (15 ml). After separation by settling out and extraction with ethyl acetate (1×15 ml), the organic extracts are combined, dried over magnesium sulfate and then evaporated under reduced pressure. The crude compound thus obtained is purified by chromatography on silica (AIT column, BPSUP 20-40 μm, 25 g silica; eluent cyclohexane: ethyl acetate 1:1 by volume). The fractions containing the expected compound are combined and evaporated under reduced pressure. The compound thus obtained is dissolved in 10 ml of dichloromethane and then treated with 350 mg of di-tert-butyl dicarbonate and 10 mg of dimethylaminopyridine at 20° C. for 3 hours. The reaction mixture is evaporated under reduced pressure to obtain 220 mg of 5-benzyloxy-3-{1-tert-butoxycarbonyl-5-[2-(4-tert-butoxycarbonylpiperazin-1-yl)ethoxy]-1H-indol-2-yl}indazole-1-carboxylic acid tert-butyl ester, which is characterized, and used without purification.

reactant | 5-benzyloxy-3-[1-tert-butoxycarbonyl-5-(2-chloro-ethoxy)-1H-indol-2-yl]indazole-1-carboxylic acid tert-butyl ester | 330 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C=1N(C2=CC=C(C=C2C1)OCCCl)C(=O)OC(C)(C)C | C34H36ClN3O6
reactant | potassium carbonate | 442 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 133 mg | [I-].[K+]
reactant | di-tert-butyl dicarbonate | 350 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dimethylaminopyridine | 10 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-benzyloxy-3-{1-tert-butoxycarbonyl-5-[2-(4-tert-butoxycarbonylpiperazin-1-yl)ethoxy]-1H-indol-2-yl}indazole-1-carboxylic acid tert-butyl ester | 220 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C=1N(C2=CC=C(C=C2C1)OCCN1CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C43H53N5O8
